US07723330B2
Step B: Preparation of 1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one:
K2CO3 (1.09 g, 7.85 mmol) and 10% Pd/C (0.42 g, 0.39 mmol) were added to 5-chloro-1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one (2.0 g, 7.85 mmol) in MeOH (100 mL) at room temperature under a H2 atmosphere and the reaction was stirred for 6 hours. The reaction mixture was filtered with MeOH and concentrated under reduced pressure. The crude was treated with CH2Cl2, washed with water, dried over MgSO4, and concentrated to give the desired product (1.55 g, 90%). LRMS (ESI pos) m/e 221.0 (M+1).

reactant | K2CO3 | 7.85 mmol, 1.09 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-chloro-1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one | 7.85 mmol, 2.0 g | ClC=1N=C(C(N(C1)C1=CC=C(C=C1)F)=O)OC | C11H8ClFN2O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.39 mmol, 0.42 g | [Pd] | Pd
product | 1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one | 1.55 g, 90% | FC1=CC=C(C=C1)N1C(C(=NC=C1)OC)=O | C11H9FN2O2
